US06645997B2
To a 100 ml DMF solution of 2-chloro-4-phenoxyphenol (10 g, 45 mmol) were added 3-bromopropanol (8.2 ml, 91 mmol) and cesium carbonate (6.2 g, 50 mmol). The resulting suspension was heated to 70° C. for 7 hr. Solvent was removed under reduced pressure. The residue was diluted with AcOEt and water. The organic layer was separated. The aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on silica gel. Elution with 30% AcOEt/hexanes gave 3-(2-chloro-4-phenoxyphenoxy)-propanol 11.96 g (95%). This material was dissolved in acetonitrile 200 ml. To it was added triphenylphosphine (18.5 g, 55.8 mmol) and carbon tetrabromide (16.9 g, 64.4 mmol). After stirring at rt for 1 hr, the solvent was removed, and the residue was chromatographed on silica gel. Elution with 5% THF/hexanes gave the title compound as colorless oil 10.9 g (74%).

reactant | 2-chloro-4-phenoxyphenol | 45 mmol, 10 g | ClC1=C(C=CC(=C1)OC1=CC=CC=C1)O | C12H9ClO2
reactant | 3-bromopropanol | 91 mmol, 8.2 ml | BrCCCO | C3H7BrO
reactant | cesium carbonate | 50 mmol, 6.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(2-chloro-4-phenoxyphenoxy)-propanol | 11.96 g, 95% | ClC1=C(OCCCO)C=CC(=C1)OC1=CC=CC=C1 | C15H15ClO3
